US07501427B2
(S)-(2-{4-[3-Chloro-4-(3-fluoro-phenoxymethyl)-phenylamino]-quinazolin-6-ylimino}-3-methyl-oxazolidin-4-yl)-methanol
(S)-(2-{4-[3-Chloro-4-(3-fluoro-phenoxymethyl)-phenylamino]-quinazolin-6-ylimino-}-3-methyl-oxazolidin-4-yl)-methanol is prepared from (S)-N6-(4-tert-butoxymethyl-3-methyl-oxazolidin-2-ylidene)-N4-[3-chloro-4-(3-fluoro-phenoxymethyl)-phenyl-]quinazoline-4,6-diamine. TFA (1 ml) is added to (S)-N6-(4-tert-butoxymethyl-3-methyl-oxazolidin-2-ylidene)-N4-[3-chloro-4-(3-fluoro-phenoxymethyl)-phenyl-]-quinazoline-4,6-diamine (0.104 g, 0.184 mmol) in 1 ml methylene chloride at 0° C. After stirring for 2 hours at 0° C. and 3 hours at room temperature, the reaction mixture is diluted with 1,2-dichloroethane and concentrated. The residue is diluted with methylene chloride and washed with 10% Na2CO3. The aqueous layer is extracted with methylene chloride, and the combined organic extracts dried (Na2SO4) and concentrated to give 60 mg (64%) pure desired product. MS ESI (+) m/z 508, 510 (M+1, Cl pattern) detected; 1H NMR (400 MHz, CDCl3) δ 8.7 (s, 1 H), 8.1 (s, 1 H), 7.8-7.4 (m, 6 H), 7.2 (m, 1 H), 6.8-6.7 (m, 3 H), 5.1 (s, 2 H), 4.5 (m, 2 H), 4.0 (dd, 1 H, J=13, 3.9 Hz), 3.9 (m, 1 H), 3.8 (br d, 1 H, J=13.0 Hz), 3.1 (s, 3 H).

reactant | (S)-N6-(4-tert-butoxymethyl-3-methyl-oxazolidin-2-ylidene)-N4-[3-chloro-4-(3-fluoro-phenoxymethyl)-phenyl-]quinazoline-4,6-diamine | C(C)(C)(C)OC[C@@H]1N(C(OC1)=NC=1C=C2C(=NC=NC2=CC1)NC1=CC(=C(C=C1)COC1=CC(=CC=C1)F)Cl)C | C30H31ClFN5O3
reactant | TFA | 1 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | (S)-N6-(4-tert-butoxymethyl-3-methyl-oxazolidin-2-ylidene)-N4-[3-chloro-4-(3-fluoro-phenoxymethyl)-phenyl-]-quinazoline-4,6-diamine | 0.184 mmol, 0.104 g | C(C)(C)(C)OC[C@@H]1N(C(OC1)=NC=1C=C2C(=NC=NC2=CC1)NC1=CC(=C(C=C1)COC1=CC(=CC=C1)F)Cl)C | C30H31ClFN5O3
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | (S)-(2-{4-[3-Chloro-4-(3-fluoro-phenoxymethyl)-phenylamino]-quinazolin-6-ylimino}-3-methyl-oxazolidin-4-yl)-methanol | 60 mg, 64% | ClC=1C=C(C=CC1COC1=CC(=CC=C1)F)NC1=NC=NC2=CC=C(C=C12)N=C1OC[C@@H](N1C)CO | C26H23ClFN5O3
